US07601716B2
3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(2-phenylthiazol-4-ylmethyl)benzamide
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 2-phenyl-4-(aminomethyl)thiazole as in General Procedure 10 to give the title compound. LCMS: m/z=619.9 (M+H+); retention time=0.99 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 2-phenyl-4-(aminomethyl)thiazole | C1(=CC=CC=C1)C=1SC=C(N1)CN | C10H10N2S
product | 3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(2-phenylthiazol-4-ylmethyl)benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)NCC=2N=C(SC2)C2=CC=CC=C2)C=CC3)C1)C(F)(F)F | C32H25ClF3N5OS
